US05444068
e) 6-Bromomethyl-3-chloro-2-methoxycarbonylbenzo-[b]thiophene
2.5 g (10.4 mmol) of 3-chloro-2-methoxycarbonyl-6-methylbenzo[b]thiophene (prepared according to J. Org. Chem. 41, 3399 (1976)) are boiled under reflux in 150 ml of chlorobenzene with 1.87 g of NBS and 420 mg of dibenzoyl peroxide for 5 h. After distilling off the chlorobenzene in a rotary evaporator, the residue obtained is taken up in EA, and the EA solution is washed with satd. NaHCO3 solution, 10% strength Na2SO3 solution and satd. NaCl solution, dried over Na2SO4 and concentrated. Chromatography on SiO2 using EA/Hep 1:20 yields 2.28 g of the title compound.

reactant | 3-chloro-2-methoxycarbonyl-6-methylbenzo[b]thiophene | 10.4 mmol, 2.5 g | ClC=1C2=C(SC1C(=O)OC)C=C(C=C2)C | C11H9ClO2S
reactant | NBS | 1.87 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | dibenzoyl peroxide | 420 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | chlorobenzene | 150 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | EA | CC(OCC)=O | C4H8O2
product | 6-Bromomethyl-3-chloro-2-methoxycarbonylbenzo-[b]thiophene | 2.28 g | BrCC=1C=CC2=C(SC(=C2Cl)C(=O)OC)C1 | C11H8BrClO2S
